US05128355
Part A: Preparation of 2-n-Butyl-4-chloro-1-[(2'-cyanobiphenyl-4-yl)methyl]imidazole-5-carboxaldehyde
2-n-Butyl-4-chloroimidazole-5-carboxaldehyde (6.34 g, 34.0 mmol), 1 eq.), 4-bromomethyl-2'-cyanobiphenyl (9.25 g, 34.0 mmol, 1 eq.), potassium carbonate (5.17 g, 37.4 mmol., 1.1 eq.) and DMF (100 mL) were mixed and stirred at 25° C. overnight. The solids were filtered and the filtrate evaporated. The residue wash chromatography over silica gel in 9:1 to 1:1 hexane/ethyl acetate and crystallized from methylcylcohexane/n-butyl chloride yielding 9.70 g of a solid; m.p. 96.0°-97.0° C. NMR (CDCl3): δ 9.78 (s, 1H); 7.83-7.40 (m, 6H); 7.19 (d, 2H, J=9Hz); 5.63 (s, 2H); 2.71 (t, 2H, J=7Hz); 1.72 (t of t, 2H, J=7,7Hz); 1.38 (t of q, 2H, J=7,7Hz); 0.90 (t, 3H, J= 7Hz). Anal. calcd. for C22H20ClN3O: C, 69.93; H, 5.34; N, 11.12. Found: C, 69.64; H, 5.37; N, 11.21.

reactant | 2-n-Butyl-4-chloroimidazole-5-carboxaldehyde | 34.0 mmol, 6.34 g | C(CCC)C=1NC(=C(N1)Cl)C=O | C8H11ClN2O
reactant | 4-bromomethyl-2'-cyanobiphenyl | 34.0 mmol, 9.25 g, 1 eq. | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
reactant | potassium carbonate | 37.4 mmol, 5.17 g, 1.1 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-n-Butyl-4-chloro-1-[(2'-cyanobiphenyl-4-yl)methyl]imidazole-5-carboxaldehyde | C(CCC)C=1N(C(=C(N1)Cl)C=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C22H20ClN3O
